US08703758B2
D) 2-sulfanyl-1,3-benzoxazol-6-ol
A suspension of 4-aminobenzene-1,3-diol hydrochloride (25.6 g), potassium ethylxanthate (76.1 g) and potassium hydroxide (13.3 g) in ethanol (450 mL) was stirred for 16 hr with heating under reflux. After allowing to cool to room temperature, the mixture was concentrated under reduced pressure, water (400 mL) was added thereto and the insoluble material was filtered through celite. To the filtrate were added 6 M hydrochloric acid (40 mL), and then 1 M hydrochloric acid (300 mL). The precipitate was collected, and washed successively with water, acetonitrile and diisopropyl ether to give the title compound (16.8 g).

reactant | 4-aminobenzene-1,3-diol hydrochloride | 25.6 g | Cl.NC1=C(C=C(C=C1)O)O
reactant | potassium ethylxanthate | 76.1 g | C(C)OC(=S)[S-].[K+]
reactant | potassium hydroxide | 13.3 g | [OH-].[K+]
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 2-sulfanyl-1,3-benzoxazol-6-ol | 16.8 g | SC=1OC2=C(N1)C=CC(=C2)O | C7H5NO2S
